US05892097
2,2'-Thiodiethylene Bis(3,5-di-tert-butyl-4-hydroxyhydrocinnamate)
Using the general procedure of Example 11, 731 g (2.5 moles) of methyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate, and 150 g (1.23 moles) of 2,2'-thiodiethanol are heated to 120° C. Then, 0.26 g of dibutyltin diacetate (Fascat® 4200, Elf-Atochem, calculated 98 ppm Sn), is added and a vacuum of <50 mm Hg is imposed . The reaction mixture is heated to 160° C. The vacuum is reduced to <5 mm Hg and the reaction mixture is heated at 160° C. for a total of 7 hours. The vacuum is broken and the temperature is reduced to 100° C. to yield the title compound after crystallization from aqueous isopropanol. The product exhibited excellent transmission >99% at 425 nm.

reactant | methyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate | 2.5 moles, 731 g | C(C)(C)(C)C=1C=C(CCC(=O)OC)C=C(C1O)C(C)(C)C | C18H28O3
reactant | 2,2'-thiodiethanol | 1.23 moles, 150 g | S(CCO)CCO | C4H10O2S
reactant | dibutyltin diacetate | 0.26 g | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
product | 2,2'-Thiodiethylene Bis(3,5-di-tert-butyl-4-hydroxyhydrocinnamate) | C(C)(C)(C)C=1C=C(CCC(=O)O)C=C(C1O)C(C)(C)C.C(C)(C)(C)C=1C=C(CCC(=O)O)C=C(C1O)C(C)(C)C.S(C=C)C=C | InChI=1S/2C17H26O3.C4H6S/c2*1-16(2,3)12-9-11(7-8-14(18)19)10-13(15(12)20)17(4,5)6;1-3-5-4-2/h2*9-10,20H,7-8H2,1-6H3,(H,18,19);3-4H,1-2H2
